US05488140
2.4 g (5 mmol) of ethyl 7-ethoxycarbonylmethoxy-2-formylamino-4-diisopropylphosphonomethyl-hept-3-enoate are dissolved in 24 ml of CH2Cl2. Then 2.6 ml (20 mmol) of trimethylbromosilane are added dropwise at room temperature to this solution. The reaction mixture is allowed to stand for 24 hours at room temperature and, after the dropwise addition of 24 ml of ethanol, allowed to stand again for 24 hours. The reaction mixture is concentrated by evaporation and the residue is dissolved in 24 ml of ethanol. A mixture of 24 ml of propylene oxide and 24 ml of ethanol is then added dropwise to this solution. The suspension so obtained is stirred for 1 hour at 0° C. and then filtered with suction. The filter product is dried, giving 2-amino-7-ethoxycarbonylmethoxy-4-phosphonomethyl-hept-3-enoic acid with a melting point of 215°-218° C.

reactant | ethyl 7-ethoxycarbonylmethoxy-2-formylamino-4-diisopropylphosphonomethyl-hept-3-enoate | 5 mmol, 2.4 g | C(C)OC(=O)COCCCC(=CC(C(=O)OCC)NC=O)CP(=O)(OC(C)C)OC(C)C | C21H38NO9P
reactant | trimethylbromosilane | 20 mmol, 2.6 ml | C[Si](Br)(C)C | C3H9BrSi
reactant | ethanol | 24 ml | C(C)O | C2H6O
solvent | CH2Cl2 | 24 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-7-ethoxycarbonylmethoxy-4-phosphonomethyl-hept-3-enoic acid | NC(C(=O)O)C=C(CCCOCC(=O)OCC)CP(=O)(O)O | C12H22NO8P
